US08685975B2
A solution of methyl 2-methoxy-2-(4-nitrophenyl)acetate (0.42 g, 1.87 mmol) in absolute EtOH (15 mL) was degassed by alternately putting under house vacuum and argon three times for several minutes each then 10% Pd/C (0.19 g) was added. The mixture was stirred under H2 (1 atm.) for 3 hrs then diluted with EtOAc and filtered through a pad of Celite and silica gel. The filtrate was concentrated in vacuo. Purification by chromatography (25-40% EtOAc-hexanes) provided methyl 2-(4-aminophenyl)-2-methoxyacetate as a yellow oil containing impurities (0.6 g from two batches, 77% yield). The compound was used without further purification.

reactant | methyl 2-methoxy-2-(4-nitrophenyl)acetate | 1.87 mmol, 0.42 g | COC(C(=O)OC)C1=CC=C(C=C1)[N+](=O)[O-] | C10H11NO5
solvent | EtOH | 15 mL | CCO | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.19 g | [Pd] | Pd
product | methyl 2-(4-aminophenyl)-2-methoxyacetate | 77% yield | NC1=CC=C(C=C1)C(C(=O)OC)OC | C10H13NO3
